US08461175B2
A 10 ml round-bottomed flask is charged with 71 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline in 3 ml of DCM. After cooling to 0° C. using an ice bath, 0.3 ml of TFA is added and the reaction mixture is stirred at RT for 16 h. It is concentrated under RP and the solid obtained is taken up in 20 ml of water and extracted with three times 20 ml of AcOEt. The organic phase is dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with DCM and with a mixture of DCM and methanol (95/5 by vol.), to give 9 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline (beige solid). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.67 (m, 2 H) 2.11 (m, 2 H) 2.88 (s, 3 H) 2.90 (m, 2 H) 3.56 (m, 2 H) 3.79 (broad s, 1 H) 6.04 (broad m, 1 H) 7.32 (m, 2 H) 7.52-7.74 (m, 3 H) 7.92 (m, 1 H) 8.40 (d, 1 H) 12.76 (broad s, 1 H); LC-MS-DAD-ELSD: 458 (+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline | 71 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC=CC13)N(N=C2NC2CCN(CC2)S(=O)(=O)C)COCC[Si](C)(C)C | C28H35F2N5O3SSi
reactant | TFA | 0.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline | 9 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC=CC13)NN=C2NC2CCN(CC2)S(=O)(=O)C | C22H21F2N5O2S
